US06486325B1
To the crude reaction mixture described in example 8 containing a solution of [5-methoxy-2-(2,2,2-trifluoro-1-methyl-1-trimethylsilanyloxy-ethyl)-phenyl]-acetic acid methyl ester was added tetrabutylammonium fluoride (9.00 mL of a 1.0M solution in tetrahydrofuran, 9.00 mmol). The reaction mixture was stirred for 1 hour after which it was poured into water (50 mL) and extracted with methyl tert-butyl ether (50 mL). The organic layer was washed with water (50 mL) and brine (30 mL), dried over magnesium sulfate, filtered, and concentrated to afford 6-methoxy-1-methyl-1-trifluoromethyl-isochroman-3-one as an oil (1.26 g, 54%). 1H NMR (400 MHz, CDCl3) δ1.89 (s, 3), 3.71 (d, 1, J=20.6), 3.79 (s, 3), 3.89 (d, 20.8), 6.65 (d, 1, J=1.5), 6.85-6.89 (m, 1), 7.29 (d, 1, J=8.7). 13C NMR (100 MHz, CDCl3) δ21.45, 34.32, 55.33, 83.01 (q, J=30.3), 112.21, 113.88, 120.57, 124.68 (q, J=285.7), 127.73, 132.18, 160.75, 167.45. IR 1765, 1614, 1509, 1322, 1301, 1274, 1259, 1183, 1101, 997, 813 cm−1. Analysis calculated for C12H11F3O3: C, 55.39; H, 4.26. Found: C, 55.03; H, 4.54.

reactant | [5-methoxy-2-(2,2,2-trifluoro-1-methyl-1-trimethylsilanyloxy-ethyl)-phenyl]-acetic acid methyl ester | COC(CC1=C(C=CC(=C1)OC)C(C(F)(F)F)(O[Si](C)(C)C)C)=O | C16H23F3O4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 50 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-methoxy-1-methyl-1-trifluoromethyl-isochroman-3-one | 1.26 g, 54% | COC=1C=C2CC(OC(C2=CC1)(C(F)(F)F)C)=O | C12H11F3O3
